US04362728
A solution of bromine (0.064 g.) in methylene chloride (2 ml.) was added dropwise over 15 minutes to a stirred solution of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[3-(2-methylsulphonyl-3-methylguanidino)-propylthio]pyrimidine (0.176 g.) and pyridine (0.2 ml.) in methylene chloride (10 ml.), and the mixture stirred at room temperature for one hour. The solution was evaporated to dryness, and the residue purified by preparative thin layer chromatography using ethyl acetate/methanol/ammonia 6:1:0.5 v/v/v as developing solvent to give 5-bromo-4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[3-(2-methylsulphonyl-3-methylguanidino)propylthio]-pyrimidine (0.12 g.), m.p. 166°-167° after recrystallisation from ethanol.

reactant | bromine | 0.064 g | BrBr | Br2
reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[3-(2-methylsulphonyl-3-methylguanidino)-propylthio]pyrimidine | 0.176 g | FC(CN=C(NC1=NC(=NC=C1)SCCCNC(=NS(=O)(=O)C)NC)N)(F)F | C13H21F3N8O2S2
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[3-(2-methylsulphonyl-3-methylguanidino)propylthio]-pyrimidine | 0.12 g | BrC=1C(=NC(=NC1)SCCCNC(=NS(=O)(=O)C)NC)NC(=NCC(F)(F)F)N | C13H20BrF3N8O2S2
